US05004747
A suspension of 4-isopropylisocoumarin-3-carboxylic acid (24.68 g) in 4-fluoroaniline (74 ml) was refluxed under argon for 15 minutes. After cooling, the reaction mixture was dissolved in diethyl ether and the resulting solution extracted with aqueous sodium hydroxide (3×300 ml; 1M). The combined aqueous phases were washed with diethyl ether and acidified to pH1 with aqueous hydrochloric acid (2M). The resultant precipitate was filtered, washed with water and dried at 100° C. to give 2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid (25.2 g) in the form of a white solid, m.p. 276°-277° C. (with decomposition) [Elemental analysis: C, 69.9; H, 4.9; N, 4.3%; calculated: C, 70.15; H, 4.9; N, 4.3%].

reactant | 4-isopropylisocoumarin-3-carboxylic acid | 24.68 g | C(C)(C)C1=C(OC(=O)C2=CC=CC=C12)C(=O)O | C13H12O4
reactant | 4-fluoroaniline | 74 ml | FC1=CC=C(N)C=C1 | C6H6FN
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(4-fluorophenyl)-4-isopropyl-1-oxo-1,2-dihydroisoquinoline-3-carboxylic acid | 25.2 g | FC1=CC=C(C=C1)N1C(C2=CC=CC=C2C(=C1C(=O)O)C(C)C)=O | C19H16FNO3
